US05686486
3-(α[R]-Ethylbenzyl)-4-hydroxy-5,6,7,8,9,10-hexahydrocycloocta[b]pyran-2-one (Formula WW-5) Refer to Chart WW
3[S]-Phenylvaleric acid of formula WW-3 (400 mg) is added to methylene chloride (5 mL) followed by oxalyl chloride (0.21 mL). That mixture is heated at reflux for 3 hours. The methylene chloride is removed and 1,3,5-trimethylbenzene (10 mL) is added. The solution of the acid chloride is then heated to reflux temperatures and WW-2 (same as VV-2) (210 mg) and triethylamine (210 mg) (both in 1.5 mL of 1,3,5-trimethylbenzene) are added dropwise. After complete addition the reaction is heated for an additional 7 hours. The reaction is cooled to room temperature and the solid removed by filtration. The filtrate is evaporated and the resulting residue is diluted with methanol (35 mL) and 0.5N NaOH (4 mL) and that mixtured stirred at room temperature overnight. The methanol is removed and water (35 mL) added. The aqueous is extracted with ether/hexane (2×35 mL) and the aqueous is acidified with 1.6N HCl at 0° C. to pH 3. That aqueous is extracted with ethyl acetate, dried and solvent removed in vacuo to yield 287.0 mg of the title product. Chromatography over silica gel (EtOAc/methylene chloride 1:8) affords 199.4 mg of the title product WW-5.

reactant | 3[S]-Phenylvaleric acid | C1(=CC=CC=C1)[C@H](CC(=O)O)CC | C11H14O2
reactant | oxalyl chloride | 0.21 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(α[R]-Ethylbenzyl)-4-hydroxy-5,6,7,8,9,10-hexahydrocycloocta[b]pyran-2-one | 287.0 mg | C(C)[C@H](C1=CC=CC=C1)C1=C(C2=C(OC1=O)CCCCCC2)O | C20H24O3
